US07320993B1
N-[6-(10,11-dihydro-dibenzo[b,f]azepin-5-yl-carbonylamino)-hexyl]-3-pyridin-3-yl-acrylamide (Substance 295)
Batch size: 2.2 g (14.8 mmol) 3-(3-pyridyl)-acrylic acid, 2.5 g (19.7 mmol) oxalyl chloride, 4.5 g (44.5 mmol) TEA and 5.0 g (13.4 mmol) 6-(10,11-dihydro-dibenzo[b,f]azepin-5-yl-carbonylamino)-hexylamine hydrochloride.

reactant | 3-(3-pyridyl)-acrylic acid | 14.8 mmol, 2.2 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 19.7 mmol, 2.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(10,11-dihydro-dibenzo[b,f]azepin-5-yl-carbonylamino)-hexylamine hydrochloride | 13.4 mmol, 5.0 g | Cl.C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)C(=O)NCCCCCCN
product | N-[6-(10,11-dihydro-dibenzo[b,f]azepin-5-yl-carbonylamino)-hexyl]-3-pyridin-3-yl-acrylamide | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)C(=O)NCCCCCCNC(C=CC=3C=NC=CC3)=O | C29H32N4O2
